US07713994B2
6-Cyclopentyl-4H-isoquinoline-1,3-dione
To 6-bromo-1,3-bis-(tert-butyl-dimethyl-silanyloxy)-isoquinoline (1.76 g, 3.75 mmole) is added tetrakis(triphenylphosphine)palladium (110 mg, 0.095 mmole) and 2M cyclopentyl magnesium bromide in ether (3.0 mL, 6.0 mmole). This mixture is heated using a microwave reactor at 75° C. for 600 sec. The mixture is cooled to room temperature, transferred to a flask with THF and water, then 2M hydrochloric acid (20 mL) is added and stirred for 4 hours at room temperature. The organic solvents were removed in vacuo, the mixture extracted with ethyl acetate, the organic layer dried over sodium sulfate filtered, evaporated and chromatographed with hexanes-ethyl acetate on silica gel to give a white solid, 268 mg (31%) MS (ESI): m/z 230.2 (M+H).

reactant | 6-bromo-1,3-bis-(tert-butyl-dimethyl-silanyloxy)-isoquinoline | 3.75 mmole, 1.76 g | BrC=1C=C2C=C(N=C(C2=CC1)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C21H34BrNO2Si2
reactant | cyclopentyl magnesium bromide | 2M | C1(CCCC1)[Mg]Br
reactant | ether | 6.0 mmole, 3.0 mL | CCOCC | C4H10O
reactant | hydrochloric acid | 2M, 20 mL | Cl | ClH
catalyst | tetrakis(triphenylphosphine)palladium | 0.095 mmole, 110 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 6-Cyclopentyl-4H-isoquinoline-1,3-dione | C1(CCCC1)C=1C=C2CC(NC(C2=CC1)=O)=O | C14H15NO2
